US08445487B2
To a solution of 4-methylpyrimidine-2-ylamine (8.0 g, 0.073 mol) in chloroform (320 mL) was added N-bromosuccinimide (13.7 g, 0.077 mol). The reaction mixture was stirred in the dark for 18 hrs. LC/MS indicated the reaction was completed. The mixture was diluted with DCM, then washed with 1N NaOH aq solution and brine, dried over MgSO4, filtered and concentrated to yield 5-bromo-4-methylpyrimidine-2-ylamin (12 g, Yield: 86%).

reactant | 4-methylpyrimidine-2-ylamine | 0.073 mol, 8.0 g | CC1=NC(=NC=C1)N | C5H7N3
reactant | N-bromosuccinimide | 0.077 mol, 13.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 320 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-bromo-4-methylpyrimidine-2-ylamin | 12 g, Yield: 86% | BrC=1C(=NC(=NC1)N)C | C5H6BrN3
